US08309562B2
3-({4-[(4-Methoxy-phenyl)-methyl-amino]-quinazolin-2-ylmethyl}-amino)-propan-1-ol
A mixture of (2-chloromethyl-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine hydrochloride (100 mg, 0.286 mmol), Cs2CO3 (201 mg, 0.617 mmol) and 3-amino-propan-1-ol (44 μL, 0.58 mmol) in DMF (1 mL) was heated at 80° C. After 18 h, EtOAc (12 mL) was added and this was washed with water (2×2 mL) and satd NaCl (2×2 mL). The soln was dried (MgSO4), filtered through a plug of silica with a wash of 100:10:1 chloroform:methanol:concd NH4OH then purified by preparative TLC (SiO2/200:10:1 chloroform:2-propanol:concd NH4OH). A band was removed from this preparative TLC plate and further purified by preparative TLC (SiO2/100:10:1 chloroform:methanol:concd NH4OH) yielding the title compound as a yellow oil. The bis(hydrochloride) salt was formed by adding then evaporating a soln of HCl in i-PrOH, giving an off-white solid. 1H NMR (DMSO-d6) δ 7.84 (m, 1H), 7.78 (m, 1H), 7.35 (m, 2H), 7.25 (m, 1H), 7.09 (m, 2H), 6.90 (m, 1H), 4.91 (t(br), 2H), 3.82 (s, 3H), 3.68 (s, 3H), 3.56 (t, J=6.2 Hz, 2H), 3.24 (m, 2H), 1.91 (m, 2H); LC-MS (ESI+; 353 ([M+H]+)).

reactant | (2-chloromethyl-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine hydrochloride | 0.286 mmol, 100 mg | Cl.ClCC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC
reactant | Cs2CO3 | 0.617 mmol, 201 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3-amino-propan-1-ol | 0.58 mmol, 44 μL | NCCCO | C3H9NO
reactant | EtOAc | 12 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 3-({4-[(4-Methoxy-phenyl)-methyl-amino]-quinazolin-2-ylmethyl}-amino)-propan-1-ol | COC1=CC=C(C=C1)N(C1=NC(=NC2=CC=CC=C12)CNCCCO)C | C20H24N4O2
